US08748418B2
[3-((R)-3-Amino-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-[1,4]oxazepin-5-yl)-4-fluoro-phenyl]-((S)-3-chloro-6,7-dihydro-5H-[1]pyrindin-7-yl)-amine
To a solution of (R)-5-[5-((S)-3-chloro-6,7-dihydro-5H-[1]pyrindin-7-ylamino)-2-fluoro-phenyl]-6,6-difluoro-5-methyl-[1,4]oxazepane-3-thione (intermediate A20Ab) (16 mg, 36.2 μmol) in 7 M ammonia in methanol (0.4 mL, 2.8 mmol) at 23° C. was added tert-butyl hydroperoxide (70% in water, 16.3 mg, 17.4 μL, 181 μmol) and the mixture stirred at 23° C. for 22 hours. Poured into aqueous 2 M Na2CO3 solution, extracted with ethyl acetate, the organic layer was dried over Na2SO4. Removal of the solvent in vacuum left a light brown solid, which was purified by flash chromatography (silica gel (amine)) with n-heptane/ethyl acetate to give the title compound as a yellow solid (7 mg, 45%). MS (ISP): m/z=425.1 [M+H]+.

reactant | (R)-5-[5-((S)-3-chloro-6,7-dihydro-5H-[1]pyrindin-7-ylamino)-2-fluoro-phenyl]-6,6-difluoro-5-methyl-[1,4]oxazepane-3-thione | 36.2 μmol, 16 mg | ClC=1C=NC=2[C@H](CCC2C1)NC=1C=CC(=C(C1)[C@]1(NC(COCC1(F)F)=S)C)F | C20H19ClF3N3OS
reactant | methanol | 2.8 mmol, 0.4 mL | CO | CH4O
reactant | tert-butyl hydroperoxide | 181 μmol, 17.4 μL, 16.3 mg | C(C)(C)(C)OO | C4H10O2
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ammonia | 7 M | N | H3N
product | [3-((R)-3-Amino-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-[1,4]oxazepin-5-yl)-4-fluoro-phenyl]-((S)-3-chloro-6,7-dihydro-5H-[1]pyrindin-7-yl)-amine | 7 mg, 45% | NC=1COCC([C@@](N1)(C)C=1C=C(C=CC1F)N[C@H]1CCC=2C=C(C=NC12)Cl)(F)F | C20H20ClF3N4O
